US05597832
2b. 2-Trimethylsilyl-3-thiophenecarboxylic acid, N,N-diethylamide
To a solution of 3 g (16.4 mmol) of 3-thiophenecarboxylic acid, N,N-diethylamide, from step 2a above, in 20 mL of THF cooled to -78° C. and stirred under N2 was added 1.68 g (2.1 mL, 16.4 mmol) of N,N,N',N'-tetramethylenediamine (TMEDA), followed by 12.6 mL of a 1.3M solution of 2-butyl lithium in cyclohexane (16.4 mmol), and the reaction was stirred for 1 hour. Chlorotrimethylsilane (1.78 g, 2.1 mL, 16.4 mmol) was added, and the solution was stirred for 45 min, then poured into 100 mL of water. The mixture was extracted 3× with methylene chloride, and the solvent was washed with brine, dried over MgSO4, concentrated, and purified by flash chromatography, eluting with 3:1 hexane:ethyl acetate to afford 1.4 g (38% yield) of the title product as an oil. MS 256 (M+H)+. NMR (CDCl3) δ:7.51 (d, 1 H, J=5 Hz), 7.10 (d, 1 H, J=5 Hz), 3.60-3.50 (bm, 2H), 3.3-3.10 (bm, 2H), 1.30-1.20 (bm, 3H), 1.15-1.05 (bm, 3H), 0.34 (s, 9H).

reactant | 3-thiophenecarboxylic acid, N,N-diethylamide | 16.4 mmol, 3 g | C(C)N(C(=O)C1=CSC=C1)CC | C9H13NOS
reactant | 2-butyl lithium | CC(CC)[Li]
reactant | cyclohexane | 16.4 mmol | C1CCCCC1 | C6H12
reactant | Chlorotrimethylsilane | 16.4 mmol, 2.1 mL, 1.78 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
product | 2-Trimethylsilyl-3-thiophenecarboxylic acid, N,N-diethylamide | 1.4 g, 38% yield | C(C)N(C(=O)C1=C(SC=C1)[Si](C)(C)C)CC | C12H21NOSSi
